US08034563B1
4-(4-hydroxymethylphenylethynyl)benzylamine:
A mixture of 4-iodo-(aminomethyl)-benzene (7.4 mmol), palladium acetate (0.015 mmol), triphenylphosphine (0.18 mmol), and CuI (0.18 mmol) in anhydrous THF (40 mL) is thoroughly degassed by purging under Ar. To this solution under Ar is added 4-hydroxymethylphenylacetylene (7.4 mmol) and Et3N (11 mmol). The mixture was then incubated at RT with stirring overnight. The mixture is diluted with EtOAc (150 mL) and the solids are removed by filtration through Celite. The crude residue obtained from the filtrate is purified by flash column chromatography (silica, 1:1 hexane:Et2O) to give the product as a slightly yellow solid.

reactant | 4-iodo-(aminomethyl)-benzene | 7.4 mmol | IC1=CC=C(C=C1)CN | C7H8IN
reactant | triphenylphosphine | 0.18 mmol | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | 4-hydroxymethylphenylacetylene | 7.4 mmol | OCC1=CC=C(C=C1)C#C | C9H8O
reactant | Et3N | 11 mmol | CCN(CC)CC | C6H15N
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 150 mL | CCOC(=O)C | C4H8O2
catalyst | palladium acetate | 0.015 mmol | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | CuI | 0.18 mmol | [Cu]I
product | 4-(4-hydroxymethylphenylethynyl)benzylamine | OCC1=CC=C(C=C1)C#CC1=CC=C(CN)C=C1 | C16H15NO
